US08110688B2
Synthesis of (7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)acetaldehyde
248.3 g (content 232.7 g, 0.930 mol) of 8-(2-hydroxyethyl)-7-methoxy-2,2-dimethylchroman-4-one, 294.0 g (content 274.9 g, 1.098 mol) of the same compound and 7614 mL of ethyl acetate were put in a 15 L four-necked round bottom flask and stirred. Cooling of this suspension was started in a cold bath set to −4° C., and 161.9 g (1.574 mol) of sodium bromide, 508 mL of water, 3.17 g (20.28 mmol) of 2,2,6,6-tetramethylpiperidine oxide were put therein sequentially. After the inner temperature reached 0° C., a mixture of 5.536 mol of sodium hypochlorite solution and 2538 g of 7% (W/W) sodium hydrogen carbonate aqueous solution were added dropwise into the flask over about 2 hours. After the dropwise addition was completed, the temperature of the cooling bus was changed to 0° C. and stirring was continued for 45 minutes. The reaction mixture was transferred to a 20 L separatory funnel and the aqueous layer was discarded. The organic layer was washed with 2030 g of 10% sodium chloride aqueous solution and 2030 mL of water sequentially. The obtained organic layer was concentrated in vacuo (40° C.) and 743.7 g of slurry was obtained. 500 mL of DME was added to the obtained slurry to form a solution and concentrated in vacuo (40° C.) again and 500 mL of DME was added again to the precipitates so that they were dissolved. This solution was transferred to a 5 L four-necked round bottom flask and warmed in a 40° C. water bath. 515 mL of DME was further added and stirred at 183 rpm and about 500 mL of water was cast therein and cooling with an ice-water bath was started 4 minutes later. Seed crystals were added and the mixture was stirred for about 1 hour and 515 mL of water was further added over about 30 minutes. After stirring for about 1.3 hours, 1523 mL of heptane was further added over 1 hour and stirred at the same temperature for about 1 hour or more. Precipitated crystals were collected by filtration, washed with a mixture of DME/water/heptane [about 600 mL, DME/water/heptane=1/1/1.5]. The crystals were dried in vacuo (bath temperature: 40° C.) till the weight became almost constant and the title compound was obtained as a yellowish white solid.

reactant | 8-(2-hydroxyethyl)-7-methoxy-2,2-dimethylchroman-4-one | 0.930 mol, 248.3 g | OCCC=1C(=CC=C2C(CC(OC12)(C)C)=O)OC | C14H18O4
reactant | sodium bromide | 1.574 mol, 161.9 g | [Br-].[Na+]
reactant | 2,2,6,6-tetramethylpiperidine oxide | 20.28 mmol, 3.17 g | CC1([NH+](C(CCC1)(C)C)[O-])C | C9H19NO
reactant | sodium hypochlorite | 5.536 mol | Cl[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DME | 500 mL | COCCOC | C4H10O2
solvent | water | 508 mL | O | H2O
solvent | ethyl acetate | 7614 mL | C(C)(=O)OCC | C4H8O2
product | (7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)acetaldehyde | Yield: 82.2% | COC1=CC=C2C(CC(OC2=C1CC=O)(C)C)=O | C14H16O4
